Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Things have been hard"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F college student with h/o depression, sent to ED on 
___ by outpatient therapist with suicidal ideation and 
plan. 
.
Pt returned to treatment with ___ student counseling service 
about one month ago with worsening depression. She said she 
started the semester feeling okay and forward looking. She began 
to feel depressed again, started staying in bed all day and 
missing classes. Appetite was poor and she lost about 10 lbs. 
She was referred to a therapist and missed the appointment. Then 
returned to treatment at the ___. A psychiatrist 
there started fluoxetine, which she initially found helpful. She 
also started seeing a therapist weekly. When she went to visit 
her boyfriend in ___ over ___, she says that 
she felt good, went out touring the city, enjoyed her time. She 
also felt okay with separating from him to return to ___, 
which normally leaves her feeling distraught. She was forward 
looking and making plans for the rest of the semester. At some 
point during the plane ride, she began to feel overwhelmed and 
had a panic attack. After returning home, she felt tired and 
went to bed. Pt says she remained in bed for the next two days 
feeling extremely depressed, amotivated, lost. She developed a 
headache and got into a negative thought loop. Started to think 
about wanting to end her life. Today, she went to her regular 
appointment with her therapist and reported these symptoms. She 
told him she had been thinking about killing herself by cutting 
or walking in front of a train. He sent her to ED on a ___.
.
Pt reports that she continues to feel depressed, amotivated, 
anhedonic and suicidal. She has thoughts about wanting to make 
her death look like an accident or die of cancer so that she 
would not burden others. Denies clear precipitant, other than 
recent return to ___, and does note that she has been unhappy 
with her major here and is planning just to finish it so she can
earn her degree and then study something else that interests 
her.
.
Received call from ___ (___) at ___. Reports pt 
has h/o of depression with SI, symptoms worsening recently to 
intent and plan to stage an accident with car or train or 
cutting. She has not been adherent to fluoxetine recently.
.
PSYCH ROS
Patient endorses h/o panic attacks (often on planes, though 
denies fear of flying), difficulty sleeping, anorexia with 
weight loss, poor concentration. She denies h/o discrete need 
for sleep, increased energy, activity c/w mania. She endorses 
h/o sustained depressed mood with isolation, hypersomnia. This 
last occurred during the winter one year ago. She took a leave 
of absence from school the following semester, moved home to 
___, completed an internship there and did a partial course 
of CBT. 
.
MEDICAL ROS
Positive for: HA
Otherwise, a 10-point ROS was negative, including: Fever, eye 
pain, hearing deficit, chest pain, shortness of breath, 
abdominal pain, constipation, diarrhea, MSK pain
 
Past Medical History:
PAST PSYCHIATRIC HISTORY
- Past diagnoses: Depression
- Hospitalizations: Denies
- Psychiatrist: Dr. ___ at ___
- Therapist: ___, PsyD at ___ 
- Medication and ECT trials: Currently on Prozac 20 mg, hasn't 
taken for last few days
- Self-injurious behaviors: Denies
- Suicide attempts: Denies
- Harm to others: Denies
- Trauma: Denies
.
SUBSTANCE USE HISTORY
- EtOH: Denies
- Tobacco: Denies current use, has smoked in the past
- Cannabis: Denies
- Illicits: Denies
.
PAST MEDICAL HISTORY
- PCP: ___
- ___ of head trauma: h/o head strike without LOC, normal head
imaging
- Hx of seizure: Denies
- PMHx: H/o MVC with neck injury
 
Social History:
___
Family History:
Cousin - depression, SI
Denies family h/o suicide attempts
Denies family h/o substance abuse
 
Physical Exam:
EXAM: 
VS  BP 138/96  HR 112  temp 98.5  resp 20  O2 sat 97% on RA  
.
Neurological:  
 *station and gait: deferred
 *tone and strength: normal strength and tone
 cranial nerves: II-XII grossly intact
 abnormal movements: none observed
.
Cognition: 
 Wakefulness/alertness: alert
 *Attention: MOYB intact
 *Orientation: oriented to person, place, time
 Executive function: intact to interview
 *Memory: ___ registration and ___ recall  
 *Fund of knowledge: intact  
 Calculations: $1.75 = 7 quarters 
 Abstraction: similes intact
 *Speech: spontaneous, normal rate, volume, prosody
 *Language: fluent without paraphasic errors, naming, 
repetition, comprehension intact
. 
Mental Status:
 *Appearance: appropriately groomed F appearing stated age, 
dressed in hospital gown, long hair and glasses 
 Behavior: cooperative, pleasant, normal eye contact, smiles 
spontaneously, no pmr/pma
 *Mood and Affect: "depressed" / euthymic, stable, appropriate
 *Thought process / *associations: linear with intact
associations
 *Thought Content: endorses SI with passive death wish (get 
cancer, get into an accident); reported active plans to 
outpatient therapist (cut, stage an accident); no paranoia or 
delusional content elicited, no abnormal perceptions
 *Judgment and Insight: fair / good 
 
Pertinent Results:
WBC-5.3 RBC-4.84 Hgb-13.5 Hct-41.4 MCV-86 MCH-27.9 MCHC-32.6 
RDW-12.8 RDWSD-39.3 Plt ___
Neuts-65.0 ___ Monos-6.4 Eos-0.4* Baso-0.4 Im ___ 
AbsNeut-3.47 AbsLymp-1.46 AbsMono-0.34 AbsEos-0.02* AbsBaso-0.02
Plt ___
Glucose-103* UreaN-12 Creat-0.7 Na-138 K-4.3 Cl-103 HCO3-21* 
AnGap-14
Cholest-161
%HbA1c-5.2 eAG-103
Triglyc-70 HDL-49 CHOL/HD-3.3 LDLcalc-98
TSH-0.95
ASA-NEG Ethanol-NEG Acetmnp-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#Major depressive episode - On admission to the unit, the 
patient endorsed suicidal ideation with plan to jump in front of 
a car or a train, as well as depressed mood, anhedonia, 
decreased sleep, insomnia, psychomotor retardation, fatigue/loss 
of energy, worthlessness/guilt, diminished concentration, 
hopelessness, and recurrent thoughts of death. Upon presentation 
to the unit the patient spent her whole first day in bed, and 
declined to attend groups.
.
The patient's presentation and history appear to be most 
consistent with a major depressive episode. Her suicidal 
ideation and depressive symptoms occurred in the setting of a 
number of significant stressors, namely pressure from her family 
to complete a major she dislikes, pressure from her school/peers 
in the form of group projects she is expected to complete, and 
significant social isolation after moving away from her family 
in ___, and then moving to ___ where she has struggled to 
make friends. The patient's social isolation appears to be 
playing a major role in her depressive symptoms. Since the 
patient moved to ___ over ___ years ago, she has struggled to 
make friends in the area. The patient also lives with her aunt 
and uncle, who she feels disapprove of her behavior and think 
she is "lazy" and "addicted" to video games.
.
While the patient was in the hospital, we re-started her home 
dose of fluoxetine 20 mg, which the patient discontinued four 
days before presenting to the emergency department. We then 
increased her fluoxetine to 30 mg daily. Because social 
isolation appears to be a significant component of the patient's 
distress, we encouraged the patient to engage with other 
patients in the milieu and attend groups.
.
Upon discharge from the unit the patient was seen to be more 
present in the milieu. She attended groups and was seen 
interacting with other patients in the milieu.
.
We also recommend intensive outpatient treatment or partial 
hospitalization to ease her transition back into the community. 
We also recommend that the patient see a therapist once per week 
after discharge. Because social isolation appears to be playing 
a significant role in her depressive symptoms, we have 
encouraged the patient to attend some form of group therapy once 
per week. 
.
#Restricted eating
Upon presentation the patient endorsed a recent 10 pound weight 
loss. She endorsed frequent restriction of her food intake and a 
desire to be thinner. She reported that she saw her depression, 
with concomitant loss of appetite, as an opportunity to lose 
weight. Because the patient endorsed some strange beliefs about 
food which may have represented misinformation, a nutrition 
consult was placed for nutritional education. The nutritionist 
recommended weekly blind weights and nutritional supplements 
with meals, as well as a daily multivitamin which will be 
continued after discharge.
.
3. SUBSTANCE USE DISORDERS
The patient did not endorse any active substance use and her 
utox and serum tox did not reveal the presence of any substances 
in her body.
.
4. MEDICAL
No active medical conditions.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. After 
initially declining the patient attended some groups including 
coping skills. The patient initially spent most of her day in 
bed but was gradually seen more in the milieu interacting 
appropriately with other patients.
.
#) COLLATERAL INFORMATION AND FAMILY INVOLVEMENT
Collateral information was obtained from the patient's cousin, 
who is her closest friend in the area and who lives with her. In 
addition, collateral information was obtained from Dr. ___ 
___, the patient's outpatient psychiatrist.
.
RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based on her intrusive 
suicidal ideation with a plan to jump in from of traffic or in 
front of a moving train. Her static risk factors noted at that 
time include a history of depression, young age, and single 
marital status. The patient's modifiable risk factors included 
suicidal ideation with plan, medication noncompliance, 
hopelessness, social withdrawal, limited coping skills, and lack 
of purpose. These modifiable risk factors were addressed by 
restarting the patient's medication and encouraging her to 
interact in the milieu and attend groups in order to ameliorate 
her feelings of social isolation and build skills for after 
discharge. She is being discharged with protective risk factors 
including a help-seeking nature, sense of responsibility to 
family, positive therapeutic relationship with outpatient 
providers, and lack of suicidal ideation. Overall, at time of 
discharge, patient was no longer at acutely elevated risk of 
self-harm such that she required ongoing inpatient psychiatric 
admission.
 
Medications on Admission:
None
 
Discharge Medications:
1.  FLUoxetine 30 mg PO DAILY  
2.  Multivitamins 1 TAB PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___